US08420655B2
To a solution of 2-bromobenzaldehyde (0.063 mL, 0.54 mmol) in DMF (5 mL) and H2O (1 mL) are added 2-methylthiazole-4-boronic acid pinacol ester (122 mg, 0.54 mmol), Pd(PPh3)4 (63 mg, 0.054 mmol) and K2CO3 (112 mg, 0.81 mmol) at room temperature. The solution is heated to 120° C. for 1 hour in a microwave reactor. The reaction is cooled down and 3-mercaptopropyl-functionalized silica gel (500 mg) is added. The solution is stirred for 15 minutes and is filtered. The filtrate is washed with H2O (10 mL) and is extracted with EtOAc (3×15 mL). The combined organic layer is dried (MgSO4), filtered and concentrated. The residue is purified by silica gel flash chromatography eluting with 50% EtOAc in heptane to afford 2-(2-methyl-thiazol-4-yl)-benzaldehyde (58 mg, 53%) as a white foam.

reactant | 2-bromobenzaldehyde | 0.54 mmol, 0.063 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 2-methylthiazole-4-boronic acid pinacol ester | 0.54 mmol, 122 mg | CC=1SC=C(N1)B1OC(C)(C)C(C)(C)O1 | C10H16BNO2S
reactant | K2CO3 | 0.81 mmol, 112 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.054 mmol, 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-methyl-thiazol-4-yl)-benzaldehyde | 58 mg, 53% | CC=1SC=C(N1)C1=C(C=O)C=CC=C1 | C11H9NOS
